US09035073B2
1-benzyl-3-(3-chloro-2-fluorophenyl)-3-methoxypyrrolidine
Preparation according to Preparation 14. 3-(3-Chloro-2-fluorophenyl)-3-methoxypyrrolidine (3.44 g, 15 mmol), dry dimethyl formamide (5 mL), sodium hydride (60% dispersion in mineral oil, 0.720 g, 18 mmol). Benzylbromide (1.78 mL, 15 mmol) in dry dimethyl formamide (5 mL). Work up according to Preparation 14. Purification by flash column chromatography on silica gel (ethyl acetate) gave the title compound (3.83 g, 80%). MS m/z (rel. intensity, 70 eV) 304 (14), 289 (16), 133 (65), 132 (35), 91 (bp).

reactant | 3-(3-Chloro-2-fluorophenyl)-3-methoxypyrrolidine | 15 mmol, 3.44 g | ClC=1C(=C(C=CC1)C1(CNCC1)OC)F | C11H13ClFNO
reactant | sodium hydride | 18 mmol, 0.720 g | [H-].[Na+]
reactant | Benzylbromide | 15 mmol, 1.78 mL | C(C1=CC=CC=C1)Br | C7H7Br
solvent | dimethyl formamide | 5 mL | CN(C=O)C | C3H7NO
solvent | dimethyl formamide | 5 mL | CN(C=O)C | C3H7NO
product | 1-benzyl-3-(3-chloro-2-fluorophenyl)-3-methoxypyrrolidine | 3.83 g, 80% | C(C1=CC=CC=C1)N1CC(CC1)(OC)C1=C(C(=CC=C1)Cl)F | C18H19ClFNO
